US08012976B2
A mixture of methyl 5-fluoro-2-methyl-3-nitrobenzoate (28 g, 130.5 mmol), NBS (27.8 g, 156.6 mmol) and BPO (3.13 g, 13.1 mmol) in CCl4 (400 mL) was heated to reflux overnight. TLC (petroleum ether/EtOAc=15:1) showed the starting material was consumed completely. Water (200 mL) was added and CCl4 was removed under reduced pressure. The residue was extracted with DCM (200 mL×3). The combined organic layers were washed with brine, dried over Na2SO4, concentrated to give crude methyl 2-(bromomethyl)-5-fluoro-2-methyl-3-nitrobenzoate (36 g, yield 94%) as a brown oil. A mixture of methyl 2-(bromomethyl)-5-fluoro-2-methyl-3-nitrobenzoate (36 g, 123 mmol) in 1,4-dioxane (250 mL) and water (62.5 mL) was heated to reflux for 4 days. TLC (petroleum ether/EtOAc=15:1) showed the starting material was consumed completely. Dioxane was removed under reduced pressure. The residue was extracted with EtOAc (300 mL×4). The combined organic layers were washed with brine, dried over Na2SO4, concentrated to give crude product. The crude product was purified by gel chromatography (petroleum ether to petroleum ether/EtOAc=5:1) to give 6-fluoro-4-nitroisobenzofuran-1(3H)-one (19.2 g, yield 79%) as a white solid. 1H-NMR (400 MHz, CDCl3) δ (ppm): 5.74 (s, 2H), 7.97-7.98 (dd, 1H), 8.24-8.27 (dd, 1H); LC-MS (ESI) m/z: 198(M+1)+.

reactant | methyl 2-(bromomethyl)-5-fluoro-2-methyl-3-nitrobenzoate | 123 mmol, 36 g | BrCC1(C(C(=O)OC)C=C(C=C1[N+](=O)[O-])F)C | C10H11BrFNO4
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | water | 62.5 mL | O | H2O
product | 6-fluoro-4-nitroisobenzofuran-1(3H)-one | 19.2 g, yield 79% | FC1=CC(=C2COC(C2=C1)=O)[N+](=O)[O-] | C8H4FNO4
